US06359134B1
1-(7-chloroquinoline-3-sulfonyl)-4-[4-methyl-2-(4-pyridyl)-5-thiazolecarbonyl]piperazine
A suspension of 1-(4,7-dichloroquinoline-3-sulfonyl)-4-[4-methyl-2-(4-pyridyl)-5-thiazolecarbonyl]piperazine (200 mg) and zinc powder (250 mg) in acetic acid (6 ml) was stirred at 80° C. for 2 hours, the mixture was concentrated. The residue was dissolved in dichloromethane-methanol, and insoluble materials were filtered off. The filtrate was concentrated to give brown solid which was successively washed with 1 N hydrochloric acid, sodium hydrogen carbonate solution and water, and dried to afford the title compound (43 mg).

reactant | 1-(4,7-dichloroquinoline-3-sulfonyl)-4-[4-methyl-2-(4-pyridyl)-5-thiazolecarbonyl]piperazine | 200 mg | ClC1=C(C=NC2=CC(=CC=C12)Cl)S(=O)(=O)N1CCN(CC1)C(=O)C1=C(N=C(S1)C1=CC=NC=C1)C | C23H19Cl2N5O3S2
solvent | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 250 mg | [Zn] | Zn
product | 1-(7-chloroquinoline-3-sulfonyl)-4-[4-methyl-2-(4-pyridyl)-5-thiazolecarbonyl]piperazine | 43 mg | ClC1=CC=C2C=C(C=NC2=C1)S(=O)(=O)N1CCN(CC1)C(=O)C1=C(N=C(S1)C1=CC=NC=C1)C | C23H20ClN5O3S2
